US03992535
3.3 gm (0.01 mol) of 2-ethyl-4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methyl ester-1,1-dioxide and 1.5 gm (0.015 mol) of 2-aminothiazole were reacted in 150 ml of xylene analogous to Example 40, yielding 1.0 gm (25% of theory) or 2-ethyl-4-hydroxy-N-(2-thiazolyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide, m.p. 261°-262° C (decomp.), after recrystallization from ethyl acetate.

reactant | 2-ethyl-4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methyl ester-1,1-dioxide | 0.01 mol, 3.3 gm | COC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)CC | C16H15NO5S
reactant | 2-aminothiazole | 0.015 mol, 1.5 gm | NC=1SC=CN1 | C3H4N2S
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-ethyl-4-hydroxy-N-(2-thiazolyl)-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | C(C)N1S(C2=C(C(=C1C(=O)NC=1SC=CN1)O)C=CC1=CC=CC=C12)(=O)=O | C18H15N3O4S2
